US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine (300 mg) is dissolved in tetrahydrofuran (5 ml) and thereto are added triphenylphosphine (191 mg), 2-(methylthio)ethanol (63 μl), a 40% diethyl azodicarboxylate/toluene solution (332 μl) and the mixture is stirred at room temperature for 2 hours and a half. To reaction mixture is added water and the mixture is extracted with diethylether. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=12:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methylsulfanyl-ethyl)-2H-tetrazol-5-yl]-amine (270 mg). MS (m/z): 692 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine | 300 mg | FC(C=1C=C(CN(C=2N=NNN2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C28H24F9N5O
reactant | triphenylphosphine | 191 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(methylthio)ethanol | 63 μl | CSCCO | C3H8OS
reactant | diethyl azodicarboxylate toluene | 332 μl | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methylsulfanyl-ethyl)-2H-tetrazol-5-yl]-amine | 270 mg | FC(C=1C=C(CN(C=2N=NN(N2)CCSC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H30F9N5OS
